US08314253B2
6.2 4-(1H-Benzoimidazol-2-yl)-piperidine-1-carboxylic acid benzyl ester
A solution of crude 10 g of 4-(2-amino-phenylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester was dissolved in 200 mL glacial AcOH and heated to 90° C. for 1.5 h. The reaction mixture was evaporated to dryness, redissolved in 20 mL MeOH and concentrated in vacuo. Purification by CC with EtOAc/Hept (9:1) to EtOAc yielded 1.3 g of the desired compound as beige solid.

reactant | 4-(2-amino-phenylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)N)=O | C20H23N3O3
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
product | 4-(1H-Benzoimidazol-2-yl)-piperidine-1-carboxylic acid benzyl ester | 1.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC=C2 | C20H21N3O2
